data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_247148_0,[C@:1]([N:4]([C:2]([H:15])([H:16])[H:17])[H:10])(/[C:5]([N:6]([H:12])[H:13])=[C:7](/[C:3]([H:18])([H:19])[H:20])[H:14])([O:8][H:9])[H:11]>>[C:1](=[C:5](\[N:6]([H:12])[H:13])[C@@:7]([C:3]([H:18])([H:19])[H:20])([N:4]([C:2]([H:15])([H:16])[H:17])[H:10])[H:14])(\[O:8][H:9])[H:11],69.86647749998852
MR_641279_1,[C:1]([C:3]([N:2]([N:4]([H:9])[H:10])[N:5]([H:11])[H:12])=[O:7])([O:6][H:8])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[C:3]([N:2]([N:4]([H:9])[H:10])[N:5]([H:11])[H:12])([O:7][H:8])[O:6]1,54.06540000003986
MR_570939_1,[C:1](/[C:3]([N:5]([H:10])[H:11])=[N:8]\[C:4]([C:2]([H:16])([H:17])[H:18])=[C:6](\[O:7][H:9])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:3]1([N:5]([H:10])[H:11])[C:6]([O:7][H:9])([H:12])[C:4]([C:2]([H:16])([H:17])[H:18])=[N:8]1)([H:13])([H:14])[H:15],33.57313249998612
MR_599357_1,[C:1]([C:2]([O:5][O:6][H:8])([H:14])[H:15])([N:3]([H:10])[H:11])([N:4]([H:12])[H:13])[O:7][H:9]>>[C:1]([C:2]([O:7][H:9])([H:14])[H:15])([N:3]([H:10])[H:11])([N:4]([H:12])[H:13])[O:5][O:6][H:8],51.78380999998623
MR_456295_0,[C@@:1]([C:2]([N:6][O:8])([H:12])[H:13])([N:3]([H:10])[H:11])([O:4][H:9])[N:5][O:7]>>[C@:1]([C:2]([N:5]=[O:7])([H:12])[H:13])([N:3]([H:10])[H:11])([O:4][H:9])[N:6][O:8],45.20823750000176
MR_464803_2,[C:1]1([C:5]([H:18])([H:19])[H:20])([N:7]([H:9])[H:10])[C:3]([H:13])([H:14])[O:8][C:2]([H:11])([H:12])[N:6]1[C:4]([H:15])([H:16])[H:17]>>[C:1]([C:3]([O:8][C:2]([N:6]([C:4]([H:15])([H:16])[H:17])[H:20])([H:11])[H:12])([H:13])[H:14])(=[C:5]([H:18])[H:19])[N:7]([H:9])[H:10],58.39452250002466
MR_131493_2,[C:1]([N:3]([H:8])[H:9])([C:4]1([H:12])/[C:2](=[N:5]\[H:10])[N:6]1[H:11])=[O:7]>>[C:1]([N:3]([H:8])[H:9])([C:4](/[C:2](=[N:5]\[H:10])[H:12])=[N:6]/[H:11])=[O:7],54.990334999987454
MR_669919_1,[C:1]1([C:3](/[C:6]([C:5]([H:17])([H:18])[H:19])=[N:8]/[H:11])([H:12])[H:13])([H:9])[C:2]([C:4]([H:14])([H:15])[H:16])([H:10])[O:7]1>>[C@@:1]1([C:3](/[C:6]([C:5]([H:17])([H:18])[H:19])=[N:8]/[H:11])([H:12])[H:13])([H:9])[C:2]([C:4]([H:14])([H:15])[H:16])([H:10])[O:7]1,67.12744000001976
MR_465999_0,[C:1]([N:7][N:6][N:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])[O:5][H:9])([H:10])([H:11])[H:12]>>[C:1]([N:7]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])[N:6][N:3][O:5][H:9])([H:10])([H:11])[H:12],35.67651249999031
MR_676601_1,[C:1]1([N:8]([H:13])[H:14])([O:9][H:10])[C:3]([H:15])([H:16])[N:7]([H:12])[C:2]([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])[N:6]1[H:11]>>[C:1]([C:3]([N:7]([C:2]([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])[N:6]([H:10])[H:11])[H:12])([H:15])[H:16])([N:8]([H:13])[H:14])=[O:9],37.12227249997838
MR_50411_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:13])([H:17])[H:18])([N:4]([H:8])[H:9])/[N:7]=[C:6](\[N:5]([H:10])[H:11])[H:12]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:13])([H:17])[H:18])=[N:7][C:6]([N:4]([H:8])[H:9])([N:5]([H:10])[H:11])[H:12],60.26760999996824
MR_619535_0,[C:1](/[C:5]([N:3](/[C:4]([N:7]([H:12])[H:13])=[N:10]\[H:16])[O:9][H:11])=[C:6](\[C:2]([H:20])([H:21])[H:22])[N:8]([H:14])[H:15])([H:17])([H:18])[H:19]>>[C:1](/[C:5](=[N:3]/[O:9][H:11])[C:6]([C:2]([H:20])([H:21])[H:22])(/[C:4]([N:7]([H:12])[H:13])=[N:10]\[H:16])[N:8]([H:14])[H:15])([H:17])([H:18])[H:19],64.79941499997636
MR_702314_1,[C:1]([C:5]([C:6]([C:2]([H:17])([H:18])[H:19])[C:3]([H:16])([H:20])[H:21])[C:7](=[C:4]([O:8][H:11])[O:9][H:10])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:5]1=[C:7]([H:12])[C:4]([O:8][H:11])([O:9][H:10])[C:6]1([C:2]([H:17])([H:18])[H:19])[C:3]([H:16])([H:20])[H:21])([H:13])([H:14])[H:15],45.11787750001588
MR_43184_1,[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([H:13])([H:17])[H:18])([C:5]([C:6]([C:2]([H:10])([H:11])[H:12])=[O:8])=[O:7])[H:9]>>[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([H:13])([H:17])[H:18])([C:6]1([C:2]([H:10])([H:11])[H:12])[C:5](=[O:7])[O:8]1)[H:9],59.077242499977416
MR_25451_2,[C:1](\[C:2]([C:3]([H:12])([H:16])[H:17])([H:14])[H:15])(=[C:5]([C:6](\[C:4]([H:18])([H:19])[H:20])=[N:8]\[H:13])/[N:7]([H:10])[H:11])[H:9]>>[C:1]1(/[C:5](=[C:6](/[C:4]([H:18])([H:19])[H:20])[N:8]([H:12])[H:13])[N:7]([H:10])[H:11])([H:9])[C:2]([H:14])([H:15])[C:3]1([H:16])[H:17],60.008452500016176
MR_636337_2,[C@@:1]([N:4]([H:11])[H:12])([C:5]([N:7][N:3]([H:9])[H:10])[H:13])([O:6][C:2]([H:14])([H:15])[H:16])[H:8]>>[C@@:1]1([N:4]([H:11])[H:12])([H:8])[C@@:5]([O:6][C:2]([H:14])([H:15])[H:16])([H:13])[N:7]1[N:3]([H:9])[H:10],51.988374999969125
MR_50040_1,[C:1]([C:2]([H:10])([H:11])[H:12])([C:4]([C:3]([H:13])([H:14])[H:15])=[O:7])([O:5][H:8])[O:6][H:9]>>[C:1]([C:4]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[O:7][H:8])(=[O:5])[O:6][H:9],44.34228750001225
MR_663690_0,[C:1]([O:5][C:4]([N:3]([H:8])[H:9])(/[N:6]=[N:2]\[H:7])[H:10])([H:11])([H:12])[H:13]>>[C:1]([O:5][N:2](/[N:6]=[C:4](/[N:3]([H:8])[H:9])[H:10])[H:7])([H:11])([H:12])[H:13],55.63226750000752
MR_494324_0,[C:1]1([C:4]([C:5]([N:6]([H:10])[H:11])=[O:8])=[O:7])([H:9])[C:2]([H:12])([H:13])[C:3]1([H:14])[H:15]>>[C:1]([C:2]([C:4]([C:5]([N:6]([H:10])[H:11])=[O:8])=[O:7])([H:12])[H:13])(=[C:3]([H:14])[H:15])[H:9],70.86420250000202
